US09120749B2
{6-bromo-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (197 mg, 0.635 mmol) was reacted with 3-[2-(pyrrolidin-1-yl)ethyl]aniline (120 mg, 0.635 mmol) to afford the desired product (220 mg, 74%) as a yellow solid: ESI MS m/z 464 [C25H26BrN3O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.635 mmol, 197 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 3-[2-(pyrrolidin-1-yl)ethyl]aniline | 0.635 mmol, 120 mg | N1(CCCC1)CCC=1C=C(N)C=CC1 | C12H18N2
product | {6-bromo-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 220 mg, 74% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CCN1CCCC1 | C25H26BrN3O
